US04883815
A suspension of 10.9 g (0.025 mol) of 8-chloro-1,2,3,4,5,6-hexahydro-4-(4-phthalimidobutyryl)benzo[f]-quinoline and 3.2 ml (0.065 mol) of hydrazine hydrate in 150 ml of ethanol is boiled at reflux temperature for 2 hours. The solution is concentrated, extracted with methylene chloride/water, dried with sodium sulfate and the solvent is distilled in a vacuum. The residue is dissolved in 10 ml of 5.5N methanolic hydrochloric acid and precipitated with ether. Recrystallization from methanol/ether gives 4-(4-aminobutyryl)-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline hydrochloride as beige crystals with melting point 225°.

reactant | 8-chloro-1,2,3,4,5,6-hexahydro-4-(4-phthalimidobutyryl)benzo[f]-quinoline | 0.025 mol, 10.9 g | ClC1=CC2=C(C=3CCCN(C3CC2)C(CCCN2C(C=3C(C2=O)=CC=CC3)=O)=O)C=C1 | C25H23ClN2O3
reactant | hydrazine hydrate | 0.065 mol, 3.2 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(4-aminobutyryl)-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline hydrochloride | Cl.NCCCC(=O)N1CCCC=2C3=C(CCC12)C=C(C=C3)Cl | InChI=1S/C17H21ClN2O.ClH/c18-13-6-7-14-12(11-13)5-8-16-15(14)3-2-10-20(16)17(21)4-1-9-19;/h6-7,11H,1-5,8-10,19H2;1H
